US07632861B2
2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethanamine.
To a solution of 2-(2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethyl)isoindoline-1,3-dione (100 mg, 0.177 mmol) in ethanol (1 mL) at room temperature was added hydrazine (0.039 mL, 1.24 mmol). The flask was sealed, heated to 45° C., and held there for 3 h. The reaction was cooled to room temperature, diluted with diethyl ether, and filtered to remove the precipitate which was discarded. The mother liquor was concentrated to give 78 mg (quant.) as a colorless oil. 1H-NMR (CDCl3, 300 MHz) δ 7.75 (s, 1H), 7.69 (s, 2H), 7.05-7.20 (m, 2H), 4.64 (qAB, JAB=13.1 Hz, 2H), 3.99 (m, 2H), 3.71 (qAB, JAB=10.1 Hz, 2H), 2.91 (m, 1H), 2.76 (m, 1H), 2.68 (m, 1H), 2.50 (m, 1H), 2.16 (m, 1H), 2.02 (m, 1H), 1.79 (bs, 2H); 13C-NMR (CDCl3, 126 MHz) δ 141.3, 137.3, 135.0, 131.7 (q, J=33.6 Hz), 129.1, 127.3, 126.8, 126.5, 125.6, 123.4 (q, J=273 Hz), 121.5, 78.4, 76.7, 72.1, 60.7, 41.9, 37.3, 29.6. Mass spec.: 434.37 (MH)+. Accurate mass spec.: m/z 434.1547 [MH]+, Δ=1.8 ppm.

reactant | 2-(2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethyl)isoindoline-1,3-dione | 0.177 mmol, 100 mg | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)CCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)C(F)(F)F)(F)F | C29H23F6NO4
reactant | hydrazine | 1.24 mmol, 0.039 mL | NN | H4N2
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethanamine | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)CCN)C=C(C1)C(F)(F)F)(F)F | C21H21F6NO2
